US07745641B2
In a similar manner to Step 1 of Example 161, 4-chloro-7-(1-(tert-butoxycarbonyl)-indol-2-yl)isoindolinone (374 mg, 0.980 mmol) was dissolved in ethanol (26 mL), and the solution was treated with iodine (299 mg, 1.18 mmol) and silver sulfate (306 mg, 0.980 mmol), followed by purification by slurry using hexane and diisopropylether to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]isoindolinone (179 mg, yield 36%).

reactant | 4-chloro-7-(1-(tert-butoxycarbonyl)-indol-2-yl)isoindolinone | 0.980 mmol, 374 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C21H19ClN2O3
reactant | iodine | 1.18 mmol, 299 mg | II | I2
solvent | ethanol | 26 mL | C(C)O | C2H6O
catalyst | silver sulfate | 0.980 mmol, 306 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-3-iodoindol-2-yl]isoindolinone | 179 mg, yield 36% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=CC=C2C1I)C(=O)OC(C)(C)C)=O | C21H18ClIN2O3
